US04952700
A reactor was charged with 20.0 parts phthalic anhydride, 20.9 parts nitroethane, 34.0 parts 1-hexene and heated to reflux. Then, 13.8 parts of triethylamine was slowly added over a one hour period. The mixture was refluxed for 20 hours. The product mixture was vacuum fractionally distilled to provide 3-methyl-5-butylisoxazoline in good yields.

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | nitroethane | [N+](=O)([O-])CC | C2H5NO2
reactant | 1-hexene | C=CCCCC | C6H12
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-methyl-5-butylisoxazoline | CC1=NOC(C1)CCCC | C8H15NO
